US08664220B2
Step 4: 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid methyl-((R)-1-phenyl-ethyl)-amide
Prepared according to the procedure described in Example 2, Step 1, using 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid and methyl-((R)-1-phenyl-ethyl)-amine

reactant | 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C1C(C1)C(=O)O | C14H12BrNO3
reactant | methyl-((R)-1-phenyl-ethyl)-amine | CN[C@H](C)C1=CC=CC=C1 | C9H13N
product | 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid methyl-((R)-1-phenyl-ethyl)-amide | CN(C(=O)C1C(C1)C=1C(=NOC1C1=CC=C(C=C1)Br)C)[C@H](C)C1=CC=CC=C1 | C23H23BrN2O2
